Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
___ yo male without any PMHx
presents with 3 day history of abdominal pain, after initially
being seen at ___.

Prior to ___, patient was in his usual state of health. He
reports that his symptoms began with abdominal pain, bilateral
lower quadrant pain, sharp, non radiating. He reports that pain
was worse with bowel movements. He was having 2 bowel movements
daily, soft to loose and denied melena or bright red blood per
rectum. Of note, CT AP at ___ showed slight wall thickening
and or edema of the terminal ileum which question of mild 
mucosal
enhancement and slight prominent of vasa recta. 

Patient also endorses a rash which began after mowing the lawn
___. He denies respiratory compromise and states that rash was
initially present on trunk and back, involves palms, no oral
involvement. Took Benadryl with no response. CRP checked at
___, ___ 15. Patient has notably had unprotected sex
within last year.
 
Past Medical History:
SBO in ___
 
Social History:
___
Family History:
mom hypothyroidism
sister with new dx of Crohn's at age ___
no other history of GI illnesses
 
 
Physical Exam:
ADMISSION EXAM:
==============
Vital Signs:  98.4 PO 111/67 R Sitting HR90 RR18 98%Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, TTP in lower quadrants LLQ>>RLQ, ___,
bowel sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: ___ intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

SKIN: diffuse erythematous patches and plaques on trunk, back,
arms, legs, scalp, including soles of feet and palms of hands. 
No
vesicles, pustules, excoriations appreciated. 
 
DISCHARGE EXAM:
==============
Vital Signs:  ___ 1529 Temp: 97.7 PO BP: 120/73 R Sitting
HR: 67 RR: 15 O2 sat: 97% O2 delivery: Ra 
General: Alert, oriented, no acute distress, lying comfortably 
in
bed
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, TTP on deep palpation of suprapubic area, bowel
sounds present, ___, no organomegaly, no rebound or
guarding  
GU: No foley  
 
Pertinent Results:
ADMISSION LABS:
----------------
___ 05:00PM BLOOD ___ 
___ Plt ___
___ 07:45AM BLOOD ___ ___
___ 05:00PM BLOOD ___ 
___
___ 05:00PM BLOOD ___ CK(CPK)-72 ___ 
___
___ 07:45AM BLOOD ___
___ 05:00PM BLOOD ___
___ 07:45AM BLOOD ___
___ 11:35PM BLOOD ___
___ 11:35PM BLOOD ___

DISHARGE LABS
----------------
___ 07:00AM BLOOD ___ 
___ Plt ___
___ 05:00PM BLOOD ___ 
___ Im ___ 
___
___ 07:00AM BLOOD ___ 
___
___ 07:45AM BLOOD ___ CK(CPK)-56 ___ 
___
___ 07:00AM BLOOD ___
 
Brief Hospital Course:
This is an ___ no PMH here w/ abdominal pain x3 days and a rash.

# Abdominal pain. 
The patient has a personal history of an unexplained small bowel 
obstruction, as well as a family history of Crohn's disease in 
sister. Patient has previous hospitalization at ___ for SBO 
around the terminal ileum/ileocecal valve, and imaging with 
current area of inflammation in the same area further raises 
concern for new diagnosis of inflammatory bowel disease. 
Elevated CRP certainly consistent with underlying inflammation 
as well. The patient underwent a colonoscopy, and the results of 
his biopsy are pending, however the intial appearance appears 
very consistent with Crohns disease. He had HBV serologies and 
Quant gold drawn, he was started on Prednisone 40mg PO daily and 
was discharged with follow up in our GI clinic on ___. 

# Maculopapular rash: Initialy diffuse maculopapular rash which 
was pruritic. The patient was evaluated by dermatology, but this 
rash was ultimately more consistent with a Type IV HSR to grass 
as he was lawn mowing on the day prior to admission. ___ 
serologies, Gonorrhea, syphilis, Anti TTg, total IgA were all 
sent on admission, and were pending at the time of discharge.

TRANSITIONAL ISSUES:
====================

Gastroenterology:
[] Biopsy results pending: Discharged on 40mg PO Prednisone 
daily, Quant gold, HBV serologies pending

Primary care:
[] Pending studies at discharge: ___ serologies, 
Gonorrhea, syphilis, Anti TTg
[] Please assist with coordination in new management for 
inflammatory bowel disease

# CONTACT: mother ___
# CODE STATUS: full, presumed
 
Medications on Admission:
None
 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*0 
2.Outpatient Lab Work
Please draw a Quantiferon Gold test 
___ Code: ___.90
Please fax result to Dr. ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
====================
Crohns disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because:
- You developed a rash and abdominal pain

While you were in the hospital:
- You had a colonoscopy, the results of this are pending, but 
the results appear to be consistent with Crohn's disease
- You should follow up with our GI doctors here in ___
- You were started on treatment with oral steroids for now
- You were seen by our skin doctors about your ___
- This rash was likely related to mowing the lawn, but it 
resolved and was not concerning

When you leave:
- Please schedule a follow up appointment with your PCP
- ___ attend your follow up appointment with the 
gastrointestinal doctors in ___

___ was a pleasure to care for you during your hospitalization!

- Your ___ care team
 
Followup Instructions:
___